Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've thought about suicide."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Over the past few weeks prior to admission, the patient 
experienced increasing
suicidal ideation and over the last three days PTA developed a 
plan to attempt suicide by buying a carbon dioxide container 
online.  He then realized that this method may not be lethal and 
decided against buying the container but continued to have 
suicidal thoughts. He reports fixed beliefs that he is 
worthless, "stupid," and a burden to his family and others. 
Within the last
week  PTA he wrote a 1006 word essay in which he explained 
reasons why
he should no longer be alive.

The patient reports symptoms of depression including depressed 
mood, fatigue/loss of energy, anhedonia, thoughts of death/SI 
(as above), sleep disturbance including insomnia (difficulty 
falling asleep without difficulty staying asleep), fluctuating 
appetite and diet changes (he usually eats one large meal of 
fast food late in the evening which he has delivered due to his 
fear of leaving his home), poor concentration, psychomotor 
agitation (he
states he spends most of the day pacing in his apartment).

Recently he has begun to worry that people around him seek to 
harm him. He specifically worries that other makes might 
physically harm him or that people will "hold [him] in contempt" 
and judge him for his depressive symptoms and
memory/concentration issues. During the interview he reported 
that he worried that one of his good friends have been "planted 
by ___ personnel" in order to spy on the patient. He 
provides a separate example in which his classmates were "too 
nice" to him and he thought that his professor had told the
classmates about his condition and told them to be nice to him.

During the week before admission, he was scheduled to give an 
important presentation in one of his courses. He was able to 
prepare for this presentation
and rehearse multiple times (this ability to prepare is a 
significant functional improvement from the patient's recent 
baseline). When he stood in front of the class to present 
"everything went blank" and he was unable to recall any details 
of his presentation. He began to become severely anxious and 
soon developed physical symptoms including shortness of breath, 
chest pain, palpitations, and diaphoresis (he states he was 
"sweating like a waterfall"). He occasionally develops similar 
physical symptoms when he is anxious but this event was more 
intense than any event previously.

The patient denies symptoms of mania such as erratic behavior, 
grandiosity, increased activity, or decreased need for sleep. 
The patient also denies psychotic symptoms such as auditory or 
visual hallucinations, or thought broadcasting.

 
Past Medical History:
Past Psychiatric History:
-Hospitalizations: none
-Current treaters and treatment: BU counseling, provider is 
___ (NP)
-Medication and ECT trial: Lexapro (used for ___ months this
past fall. He self-discontinued in ___ after he ran out of
pills and was too embarrassed to seek a refill. He thought his
provider would think he was "Stupid" for not planning ahead).
Celexa (used in ___ grade. Self-discontinued after a few months
after he found it "dulled" his thinking).
-Self-injury: Recently he scratched his neck repetitively while 
frustrated with a school task. He did not realize he was harming 
himself but his neck was reddened and painful to touch because 
of this.
-Harm to others: denies
-Access to weapons: denies

Past Medical History:
-One concussion after falling from a 2 meter high podium several 
years ago.

-Denies history of seizures

-No other medical conditions
 
Social History:
Mr. ___ was born in ___ and raised there with both 
parents and his younger sister until the end of middle school. 
Mr. ___ reports him and his parents lived with his uncle in 
___ at one point due to money being tight, and that this 
uncle physically abused him at the age of ___. He also reports 
physical abuse by multiple friends and family members as a 
child.

When Mr. ___ finished middle school him and his mother moved to 
___ while his father remained in ___ for work. He 
states that when he was ___ in high school his mother 
returned to ___ due to monetary complications, and that 
he stayed with a parent's coworker until he graduated high 
school. Mr. ___ mentions being in the military after graduating 
high school. 

Currently Mr. ___ is a senior in his final semester studying 
___ at ___. He reports that he had a close 
group of friends up until last year when they all graduated. He 
also states that he has a girlfriend who lives in ___ 
 
Family History:
Family Psychiatric History:
-Unknown

 
Physical Exam:
VS: Temp: 98.5 °F (36.9 °C), Pulse: 115, RR: 16, BP: 121/85,
MAP: 97.0 mm Hg, O2 sat: 100

* General: in NAD
* HEENT: Normocephalic. Atraumatic. Oropharynx clear.
* Neck: No adenopathy or thyromegaly.
* Lungs: CTAB
* CV: RRR with normal S1 and S2, no m/r/g
* Abdomen: + BS, soft, NT, ND
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.

*Neurological:  
  Station and gait: narrow based, steady, wnl
  Tone and strength: grossly intact, spontaneously moves all 
extremities
  Cranial nerves: CN II-XII grossly intact
  Abnormal movements: no tremor or abnormal posturing

*Cognition: 
   Wakefulness/alertness: awake and alert
   Attention: can do MOYB
   Orientation: oriented to person, time, place, situation
   Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
   Fund of knowledge: consistent with education; intact to last 
2 presidents (Could not recall ___
   Calculations: $2.75 = "11 quarters"
    
*Mental Status:
   Appearance: No apparent distress, appears stated age, well 
groomed   Behavior: Cooperative, engaged, appropriate eye 
contact
   Mood and Affect: "Nervous" / Restricted range, appropriate to 
situation, congruent with mood
   Thought process: linear, coherent, goal-oriented, no loose 
associations.
   Thought Content: Currently denies SI or paranoia; No AH/VH
   Judgment and Insight: fair/fair

 
Pertinent Results:
___ 12:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:30PM   GLUCOSE-99 UREA N-14 CREAT-1.1 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-28 ANION GAP-15
___ 12:30PM   WBC-4.4 RBC-5.27 HGB-15.1 HCT-45.2 MCV-86 
MCH-28.7 MCHC-33.4 RDW-11.9 RDWSD-36.9
___ 12:30PM   NEUTS-54.5 ___ MONOS-4.7* EOS-2.0 
BASOS-0.5 IM ___ AbsNeut-2.41 AbsLymp-1.69 AbsMono-0.21 
AbsEos-0.09 AbsBaso-0.02
___ 12:30PM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission.  He was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#)Depression 
On admission the patient endorsed depressed mood, hopelessness, 
insomnia, decreased appetite, poor concentration, anhedonia, and 
suicidal ideation with plan.  Patient felt like his memory and 
attention were quite poor and was hopeless about the possibility 
of improvement. Additionally, he felt like he did not have 
agency in making important decisions for his own life and held 
grudges against his family, particularly his father.  
  
Patient is taking sertraline 50 mg PO/NG daily upon discharge.  
Patient reported nausea after started the medication but said 
that has since resolved.  He says he no longer feels He denied 
suicidal ideation for several days and felt safe to be 
discharged.  He also reports that he no longer views his 
condition as hopeless.  He has been in daily communication with 
his family about his struggles and the grudges he has held and 
now feels like he has more control over determining the course 
of his life.  He will follow up with a therapist at his school 
until graduation and then search for a psychiatrist and 
therapist once he returns to ___.

#)Paranoia
On admission, patient endorsed paranoid thoughts, including that 
one of his good friends may have been planted by the ___ 
to watch him, that people may be watching him through his 
webcam, and that people may have ill will towards him because of 
his poor memory and attention.  Patient is taking aripiprazole 
10 mg PO/NG QPM upon discharge.  He states that he no longer 
feels paranoid and says that he will start trusting people, 
though he would still feel more comfortable covering his webcam.

3. SUBSTANCE USE DISORDERS:
#)  Reports smoking marijuana ___ for the past several 
weeks to help with sleep. Says that he will quit following 
discharge.

4. MEDICAL
#)None

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with him daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient's family was updated on his condition and hospital stay 
with the patient's permission.

#) INTERVENTIONS
- Medications: aripiprazole 10 mg PO/NG QPM, sertraline 50 mg 
PO/NG Daily, hydroxyzine 25 mg PO/NG Q6H:PRN, trazadone 50 mg 
PO/NG QHS:PRN
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___ Health 
___

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon his worsening 
depression and active suicidal ideation with plan.  Their static 
factors noted at that time include chronic mental illness, 
history of substance abuse, and male gender.   The modifiable 
risk factors addressed included suicidal ideation with plan, 
medication noncompliance, lack of engagement with outpatient 
treatment, hopelessness, social withdrawal, limited social 
supports, limited coping skills, poor reality testing, lack of 
purpose, active substance abuse, and recent personal loss.  
Through group and individual sessions, we offered coping skills 
to help him deal with stress and depressed feelings.  We 
encouraged him to communicate with his family on a regular basis 
and explain to them what he is struggling with.  Through 
motivational interviewing, we encouraged him to quit using 
cannabis.  Additionally, we started him on Sertraline and 
Abilify to help with his depression and paranoid feelings.  
Finally, the patient is being discharged with many protective 
risk factors,  including help-seeking nature, future-oriented 
viewpoint, sense of responsibility to family, improved reality 
testing ability and coping skills, lack of suicidal ideation, 
and stronger social supports.  Overall, based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is good.

 
 
Medications on Admission:
This patient is not taking any preadmission medications
 
Discharge Medications:
Abilify 10 mg PO/NG QHS

Sertraline 50 mg PO/NG daily

Hydroxyzine 25 mg PO Daily PRN for anxiety
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Depressive Disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

-Please continue all medications as directed.

-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.

-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___